US04452792
Preparation of O-(2-Methyl-4,6-dichlorophenyl) O-(3-Methylsulfinyl-7-cyanoacridin-1-yl) S-Propyl Phosphorothioate
1-Hydroxy-3-methylsulfinyl-7-cyanoacridine (0.01 mole), triethylamine (0.01 mole), tetrahydrofuran (25 ml) and toluene (25 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The mixture is cooled to a temperature of about 0° C. and O-(2-methyl-4,6-dichlorophenyl) S-propyl phosphorochloridothioate (0.01 mole) dissolved in toluene (25 ml) is added with stirring over a period of about 30 minutes. After the addition is completed the reaction mixture is allowed to warm to room temperature and stirring is continued for a period of about 16 hours. After this time the reaction mixture is filtered to remove triethylamine hydrochloride. The filtrate is then washed with water, dried over anhydrous magnesium sulfate and stripped of solvents leaving a residue. This residue is subjected to flash chromatography using ethyl acetate as the eluant to yield the desired product O-(2-methyl-4,6-dichlorophenyl) O-(3-methylsulfinyl-7-cyanoacridin-1-yl) S-propyl phosphorothioate.

reactant | 1-Hydroxy-3-methylsulfinyl-7-cyanoacridine | 0.01 mole | OC1=CC(=CC2=NC3=CC=C(C=C3C=C12)C#N)S(=O)C | C15H10N2O2S
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | O-(2-methyl-4,6-dichlorophenyl) S-propyl phosphorochloridothioate | 0.01 mole | P(OC1=C(C=C(C=C1Cl)Cl)C)(SCCC)(Cl)=O | C10H12Cl3O2PS
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | O-(2-methyl-4,6-dichlorophenyl) O-(3-methylsulfinyl-7-cyanoacridin-1-yl) S-propyl phosphorothioate | P(OC1=C(C=C(C=C1Cl)Cl)C)(OC1=CC(=CC2=NC3=CC=C(C=C3C=C12)C#N)S(=O)C)(SCCC)=O | C25H21Cl2N2O4PS2
